US07576077B2
3-(1-chloroethyl)-5-(3-chlorophenyl)-1,2,4-oxadiazole
5 drops of DMF was added to 1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethanol (12.3 g, 54.9 mmol) in SOCl2 (150 mL) and the reaction was heated at 70° C. for 5 h. The excess SOCl2 was evaporated and the residue was purified by column chromatography (Hep to Hep-EA 5:1) to give 12.4 g (93%) of the title compound. 1H NMR: 1.96 (d, 3H) 5.20 (q, 1H) 7.46 (t, 1H) 7.59 (m, 1H) 8.04 (m, 1H) 8.17 (t, 1H)

reactant | 1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethanol | 54.9 mmol, 12.3 g | ClC=1C=C(C=CC1)C1=NC(=NO1)C(C)O | C10H9ClN2O2
reactant | SOCl2 | 150 mL | O=S(Cl)Cl | Cl2OS
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
product | 3-(1-chloroethyl)-5-(3-chlorophenyl)-1,2,4-oxadiazole | 12.4 g, 93% | ClC(C)C1=NOC(=N1)C1=CC(=CC=C1)Cl | C10H8Cl2N2O
